US05688815
2-[4-Fluorophenyl)-hydroxy-methyl]-3-hydroxy-pyran-4-one: With stirring at room temperature, 5.6 g of pyromeconic acid (3-hydroxy-pyran-4-one) [CAS No.: 496-63-9] are dissolved in 10 ml of water and 24.5 ml of 2N NaOH. 6.33 g of 4-fluorobenzaldehyde and 25 ml of ethanol are added and the reaction mixture is stirred at room temperature for 18 hours. For working-up, the ethanol is removed using a rotary evaporator and the aqueous solution that remains is neutralised with 24.5 ml of 2N HCl. The product that has crystallised out is filtered off, washed with water and dried, yielding 2-[(4-fluorophenyl)-hydroxy-methyl]-3-hydroxy-pyran-4-one in the form of colourless crystals. M.p.: 154°-156° C.

reactant | 3-hydroxy-pyran-4-one | OC1=COC=CC1=O | C5H4O3
reactant | pyromeconic acid | 5.6 g | C1=COC=C(C1=O)O | C5H4O3
reactant | 4-fluorobenzaldehyde | 6.33 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
solvent | NaOH | 2N, 24.5 ml | [OH-].[Na+]
product | 2-[(4-fluorophenyl)-hydroxy-methyl]-3-hydroxy-pyran-4-one | FC1=CC=C(C=C1)C(C=1OC=CC(C1O)=O)O | C12H9FO4
